US07989449B2
Methanesulfonic acid 4-[1-(3-bromo-4-fluoro-phenyl)-vinyl]-2-methyl-phenyl ester
4-[1-(4-Fluoro-3-bromo-phenyl)-vinyl]-phenol was produced from {4-[1-(3-bromo-4-fluoro-phenyl)-vinyl]-phenoxy}-tert-butyl-dimethyl-silane according to Building Block X & AA. To a solution of 4-[1-(4-fluoro-3-bromo-phenyl)-vinyl]-phenol (1.5 g, 4.88 mmol, 1.0 eq) in DCM (15 mL), triethylamine (2.0 mL, 14.65 mmol, 3.0 eq) was added and the reaction mixture cooled to 0° C. Then methanesulfonyl chloride (0.416 mL, 5.37 mmol, 1.1 eq) was added dropwise and the mixture was allowed to warm to room temperature and stirred 16 h. The reaction was examined by TLC (ethyl acetate/cyclohexane 20%) which showed complete conversion to the desired product. After night time water was added and organic and water phase were separated. Organic solution was dried over magnesium sulfate filtered and evaporated. The crude was purified by flash chromatography eluting with cyclohexane, then ethyl acetate/cyclohexane 20%. 1.4 g of clean product was obtained as colorless liquid (yield: 75%)

reactant | 4-[1-(4-fluoro-3-bromo-phenyl)-vinyl]-phenol | 4.88 mmol, 1.5 g, 1.0 eq | FC1=C(C=C(C=C1)C(=C)C1=CC=C(C=C1)O)Br | C14H10BrFO
reactant | triethylamine | 14.65 mmol, 2.0 mL, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.37 mmol, 0.416 mL, 1.1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 4-[1-(3-bromo-4-fluoro-phenyl)-vinyl]-2-methyl-phenyl ester | BrC=1C=C(C=CC1F)C(=C)C1=CC(=C(C=C1)OS(=O)(=O)C)C | C16H14BrFO3S
